US04874775
N-(2,4-difluorophenyl)-N-[1-(pyridin-3-yl)ethyl]-methanesulfonamide
A 3.5 g. portion of 3-[1-(2,4-difluorophenylamino)ethyl]pyridine was dissolved in 15 ml. of dichloromethane with stirring, and 2.6 g. of methanesulfonic anhydride was added. The mixture was stirred at ambient temperature for several days, and was then extracted with aqueous sodium bicarbonate. The organic solution was then dried over magnesium sulfate, filtered and evaporated to an oil. The oil was taken up in dichloromethane and was chromatographed over silica gel, eluting first with dichloromethane and then with chloroform. The product-containing fractions were combined and evaporated under vacuum to obtain 2.79 g. of the desired product, m.p. 76°-78°.

reactant | 3-[1-(2,4-difluorophenylamino)ethyl]pyridine | FC1=C(C=CC(=C1)F)NC(C)C=1C=NC=CC1 | C13H12F2N2
reactant | methanesulfonic anhydride | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2,4-difluorophenyl)-N-[1-(pyridin-3-yl)ethyl]-methanesulfonamide | FC1=C(C=CC(=C1)F)N(S(=O)(=O)C)C(C)C=1C=NC=CC1 | C14H14F2N2O2S
